US07435837B2
(±)-{[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.038 g, 34%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.15 g, 0.36 mmol) and methylamine (0.112 g, 3.60 mmol). mp 102-104° C.

reactant | (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.36 mmol, 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)C)F | C23H21FO4S
reactant | methylamine | 3.60 mmol, 0.112 g | CN | CH5N
product | (±)-{[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC=C1)C | C17H18FNO
